US06891039B2
a) 2-(4-Fluorophenyl)-5-aminoimidazo[4,5-b]pyridine
2-(4-Fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)-5-aminoimidazo[4,5-b]pyridine (110 mg, 0.31 mmol) is dissolved in CH2Cl2/HOAc 1:1 (6.2 nm), combined at 0° C. with mCPBA (84 mg 70%, 0.34 mmol) and stirred for 30 min. The reaction mixture is poured on 2N Na2CO3 and extracted with ethyl acetate three times. The combined organic phases are dried over Na3SO4, filtered and evaporated to dryness to yield the crude sulfoxide (110 mg). 50 mg are dissolved in 1-(S)-phenylethylamine (0.5 ml) and heated to 120° C. for 1 h. Purification over RP18 (CH3CN/Water 70/30 to 10/90) yielded the title compound as light brown foam (30 mg 52%)

reactant | 2-(4-Fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)-5-aminoimidazo[4,5-b]pyridine | 0.31 mmol, 110 mg | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)N)N1)C1=NC(=NC=C1)SC | C17H13FN6S
reactant | mCPBA | 0.34 mmol, 84 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 HOAc | C(Cl)Cl.CC(=O)O
solvent | 1-(S)-phenylethylamine | 0.5 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
product | 2-(4-Fluorophenyl)-5-aminoimidazo[4,5-b]pyridine | 30 mg, 52% | FC1=CC=C(C=C1)C=1NC=2C(=NC(=CC2)N)N1 | C12H9FN4
